US09169259B2
A solution of NaOH in water (0.05 mol/L, 1.2 mL) was added to 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (25 mg, 0.06 mmol) and the mixture stirred until the solid was completely dissolved. The solution was concentrated in vacuo to give sodium 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (20 mg, 76%) as a white solid. 1H NMR (300 MHz, D2O): δ 7.98-7.77 (m, 2H), 7.55-7.38 (m, 2H), 7.26-7.05 (m, 3H), 6.80 (brs, 1H), 5.50 (brs, 1H), 5.41-5.33 (m, 1H), 3.39 (brs, 1H), 2.91 (brs, 1H), 2.63 (brs, 1H), 1.58-1.30 (m, 4 h), 0.60 (s, 3H).

reactant | NaOH | [OH-].[Na+]
reactant | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.06 mmol, 25 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H22N6O2
solvent | water | 0.05 mol/L, 1.2 mL | O | H2O
product | sodium 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 20 mg, 76% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)[O-])C=CC1)C=CN2.[Na+] | InChI=1S/C23H22N6O2.Na/c1-15-5-4-11-28(15)21-9-3-8-20(26-21)25-19-14-18(27-29-12-10-24-22(19)29)16-6-2-7-17(13-16)23(30)31;/h2-3,6-10,12-15H,4-5,11H2,1H3,(H,25,26)(H,30,31);/q;+1/p-1
